US06930104B2
1-(3,4-Dimethylbenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol
Starting with 2-methyl-1,2,3,4-tetrahydro-4-quinolinol (1.00 g, 6.12 mmol) synthesized in the published manner and 3,4-dimethylbenzoic acid (1.20 g, 7.96 mmol), the same procedure as shown in Reference Example 19 was repeated to give the titled compound (1.13 g, yield: 48%) as an oil. (cis:trans=1:1)

reactant | 2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 6.12 mmol, 1.00 g | CC1NC2=CC=CC=C2C(C1)O | C10H13NO
reactant | 3,4-dimethylbenzoic acid | 7.96 mmol, 1.20 g | CC=1C=C(C(=O)O)C=CC1C | C9H10O2
product | 1-(3,4-Dimethylbenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 1.13 g, yield: 48% | CC=1C=C(C(=O)N2C(CC(C3=CC=CC=C23)O)C)C=CC1C | C19H21NO2
